US07060817B2
Preparation of n-butyl-N-2-thiazolylsulfonamide
7.4 g of 2-aminothiazole (73.7 mmol) and 10.2 ml of triethylamine (7.4 g, 73.7 mmol) were dissolved at room temperature in 100 ml of THF. Again at room temperature 9.6 ml of n-butanesulfonyl chloride (11.5 g, 73.7 mmol) were added dropwise to this solution over the course of one hour. After 21 h of stirring at room temperature a further 4 ml of n-butanesulfonyl chloride (4.8 g, 30.8 mmol) were added and stirring was continued at room temperature for 20 h. The reaction mixture was washed twice with 100 ml of 1 N NaOH and then washed to neutrality (pH 6–7) with water. The organic phase was dried over magnesium sulphate and then freed from the solvent. The 9.0 g of crude product obtained were recrystallized from 80 ml of tert-butyl methyl ether. This gave 3.2 g of the target compound, whose constitution was verified by NMR spectroscopy.

reactant | 2-aminothiazole | 73.7 mmol, 7.4 g | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 73.7 mmol, 10.2 ml, 7.4 g | C(C)N(CC)CC | C6H15N
reactant | n-butanesulfonyl chloride | 73.7 mmol, 9.6 ml, 11.5 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | n-butanesulfonyl chloride | 30.8 mmol, 4 ml, 4.8 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | n-butyl-N-2-thiazolylsulfonamide | 9.0 g | C(CCC)S(=O)(=O)NC=1SC=CN1 | C7H12N2O2S2
